US07704995B2
A solution of methyl 3-amino-6-naphthalen-1-ylpyrazine-2-carboxylate (80 mg, 0.29 mmol) in methanol (30 mL) was saturated with ammonia gas at 0° C. in a high-pressure test tube. The reaction tube was tightly sealed and heated to 80-90° C. for 4h. Reaction cooled to room temperature and evaporated at reduced pressure to afford 3-amino-6-naphthalen-1-ylpyrazine-2-carboxamide (59 mg, 79% yield) as yellow product: 1H NMR (400 MHz, CDCl3): δ 8.80 (s, 1H), 8.10 (d, 1H), 7.90 (d, 2H), 7.58 (m, 6H); MS (EI) for C15H12N4O: 265 (MH+).

reactant | methyl 3-amino-6-naphthalen-1-ylpyrazine-2-carboxylate | 0.29 mmol, 80 mg | NC=1C(=NC(=CN1)C1=CC=CC2=CC=CC=C12)C(=O)OC | C16H13N3O2
reactant | ammonia | N | H3N
solvent | methanol | 30 mL | CO | CH4O
product | 3-amino-6-naphthalen-1-ylpyrazine-2-carboxamide | 59 mg, 79% yield | NC=1C(=NC(=CN1)C1=CC=CC2=CC=CC=C12)C(=O)N | C15H12N4O
